US08486940B2
3-(1H-benzo[d]imidazol-5-yl)-4-(2,6-difluoro-4-methoxyphenyl)oxazolidin-2-one
The compound was synthesized according to method 6 starting from 2,6-difluoro-4-methoxybenzaldehyde (4 g, 23.25 mmol), potassium cyanide (1.8 mg, 27.90 mmol), ammonium carbonate (10.95 g, 69.76 mmol), 10% aqueous sodium hydroxide (50 mL), thionyl chloride (2.6 mL, 36.86 mmol), sodium borohydride (2.31 g, 64.37 mmol), triethylamine (2.4 mL, 17.73 mmol), di-tert-butyl dicarbonate (1.5 mL, 7.09 mmol), thionyl chloride (3.3 mL, 46.2 mmol), 4-bromo-1,2,diaminobenzene (0.734 g, 3.93 mmol), cesium fluoride (1.19 g, 7.86 mmol) and copper (II) iodide (112 mg, 5.89 mmol), 1,2-diamino cyclohexane (67 mg, 5.89 mmol), formic acid (5 mL). Yield: 175 mg (2.2%). MS m/z 346.3 (M+H)+; 1H-NMR (400 MHz, CDCl3): δ 9.45 (bs, 1H); 7.97 (s, 1H); 7.72 (bs, 1H); 7.39 (s, 1H); 7.26 (s, 1H); 6.37 (d, 1H); 5.87 (s, 1H); 4.83 (t, 1H); 4.47 (t, 1H); 3.70 (s, 3H), HPLC (λ=214 nm, [A]: rt 9.17 min (100%).

reactant | 2,6-difluoro-4-methoxybenzaldehyde | 23.25 mmol, 4 g | FC1=C(C=O)C(=CC(=C1)OC)F | C8H6F2O2
reactant | potassium cyanide | 27.90 mmol, 1.8 mg | [C-]#N.[K+]
reactant | ammonium carbonate | 69.76 mmol, 10.95 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | thionyl chloride | 36.86 mmol, 2.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium borohydride | 64.37 mmol, 2.31 g | [BH4-].[Na+]
reactant | triethylamine | 17.73 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 7.09 mmol, 1.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | thionyl chloride | 46.2 mmol, 3.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-1,2,diaminobenzene | 3.93 mmol, 0.734 g | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | cesium fluoride | 7.86 mmol, 1.19 g | [F-].[Cs+]
reactant | 1,2-diamino cyclohexane | 5.89 mmol, 67 mg | NC1C(CCCC1)N | C6H14N2
catalyst | copper (II) iodide | 5.89 mmol, 112 mg | [Cu](I)I
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 3-(1H-benzo[d]imidazol-5-yl)-4-(2,6-difluoro-4-methoxyphenyl)oxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OCC2C2=C(C=C(C=C2F)OC)F)=O | C17H13F2N3O3
